US07217710B2
To a solution of 2-[3-(4-amino-phenyl)-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-ylamino)-ethanol (25.4 mg, 0.1 mmol) in N-methylpyrrolidinine (0.5 mL) was added 2-fluoro-5-trifluoromethyl-phenyl isocyanate (22 mg, 0.11 mmol, 2.1 eq). The reaction mixture was stirred for 1 hour at room temperature while monitored by TLC. The mixture was then evaporated and the crude product was purified by preparative HPLC to give pure (2-fluoro-5-trifluoromethyl-phenyl)-carbamic acid 2-(3-{4-[3-(2-fluoro-5-trifluoromethyl-phenyl)-ureido]-phenyl}-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-ylamino)-ethyl ester; 1H-NMR (DMSO): δ 3.71 (m, 2H), 3.81 (s, 3H), 4.34 (m, 2H), 7.41–7.60 (m, 4H), 7.92 (d, 2H, J=8.4 Hz), 8.11 (br s, 1H), 8.63 (s, 1H), 8.94 (s, 1 H), 9.15 (s, 1H), 9.36 (br s, 1H), 9.75 (br s, 1H); LC/MS (m/e)=695.2 (MH+).

reactant | 2-[3-(4-amino-phenyl)-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-ylamino)-ethanol | 0.1 mmol, 25.4 mg | NC1=CC=C(C=C1)C1=NN(C2=NC(=NC=C21)NCCO)C | C14H16N6O
reactant | 2-fluoro-5-trifluoromethyl-phenyl isocyanate | 0.11 mmol, 22 mg, 2.1 eq | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
product | (2-fluoro-5-trifluoromethyl-phenyl)-carbamic acid 2-(3-{4-[3-(2-fluoro-5-trifluoromethyl-phenyl)-ureido]-phenyl}-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-ylamino)-ethyl ester | FC1=C(C=C(C=C1)C(F)(F)F)NC(NC1=CC=C(C=C1)C1=NN(C2=NC(=NC=C21)NCCOC(NC2=C(C=CC(=C2)C(F)(F)F)F)=O)C)=O | C30H22F8N8O3
